datasets/10k_Mayr_OG.csv
SMILES Labelled
"C/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[C:11]([CH:10]([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[N+:61]#[N:62])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94](OC)[CH:103]=[CH:102]1)=[O:72].C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC[O:82][C:71]([C:10]([CH:20]1CCC[C:22]([O-:23])=[C:21]1C)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94](OC)[CH:103]=[CH:102]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:61]([CH-:10][C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)=[O:62])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10=20;20,21=21,22;22,23=23"
C1=CN(C[C@@H]2CCC[NH:10]2)C=N1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H]2CN2C=CN=C2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.C1=CC=C([C:61]([CH-:10][C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)=[O:62])C=C1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([CH:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10=20;20,21=21,22;22,23=23"
"[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1.[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1.[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20;12,13=11,12"
"C1=CC=C(CC2C[O:62][C:11]([O-:12])=[N:10]2)C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2C(CC3=CC=CC=C3)C[O:62][C:11]2=[O:12])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1>>C[C:11]([CH:10]([CH:20]1CC[O:33][C:22]([O-:23])=[CH:21]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si](C)(C)[Si:62]([Si](C)(C)C)([C:11](C)=[CH2:10])[Si:63](C)(C)C.N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[Si](C)(C)[Si:62]([Si](C)(C)C)([C+:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1)[Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C1=C[C:62]2=[C:63](C=C1)[C:71](=[O:72])[N-:10][C:61]2=[O:62]>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([N:10]1[C:61](=[O:62])[C:62]3=[C:63](C=CC=C3)[C:71]1=[O:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[C:22]2[O-:23] 10=20;20,21=21,22;22,23=23"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>C[C+:11]([CH2:10][CH:20]([CH:21]=[CH:22][N:23]1CCOCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C[O:12][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:62]C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>CC1(C)C[O+:12]=[B-:11](C2=CC=C(C(F)(F)F)C=C2)[O:62]C1.C[CH:10](C1=CC=CC=C1)[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][C:33]2=[C:34]3N(CCC2)CCC[C:35]3=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[CH:10]=[C:11]([O-:12])[O:82]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:72]1=[CH:71][N:10]=[C:11]([O-:12])[NH:84][C:73]1=[O:74].C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:11](=[O:12])[NH:84][C:73](=[O:74])[C:72](C)=[CH:71]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
